US08012956B2
Dimethyl 2,5-dimethyl-3-nitroterephthalate (2.27 g, 8.50 mmol) was dissolved in 1,4-dioxane (20 mL) and was cooled in an ice bath. 1N Sodium hydroxide (8.5 mL) was added dropwise, and the mixture was stirred at ambient temperature for 2.25 h. Additional 1N sodium hydroxide (0.5 mL) was added drop-wise and the mixture was stirred at ambient temperature for a further 1 h at which point another 0.5 mL aliquot of 1N aqueous sodium hydroxide was added and stirring was continued for an additional 1 h. The reaction mixture was diluted with water and was washed with ether. The aqueous portion was acidified with 1N hydrochloric acid to pH ˜2 and then was extracted with ethyl acetate (2×). The combined ethyl acetate portion was dried over sodium sulfate, then filtered and concentrated to provide 4-(methoxycarbonyl)-2,5-dimethyl-3-nitrobenzoic acid (quantitative yield). 1H NMR (400 MHz, d6-DMSO): δ 13.8 (br s, 1H), 7.93 (d, 1H), 3.81 (s, 3H), 2.38 (s, 3H), 2.37 (s, 3H); MS (EI) for C11H11NO6: 252 (M−H).

reactant | Dimethyl 2,5-dimethyl-3-nitroterephthalate | 8.50 mmol, 2.27 g | CC1=C(C(=O)OC)C=C(C(=C1[N+](=O)[O-])C(=O)OC)C | C12H13NO6
reactant | Sodium hydroxide | 1N, 8.5 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 0.5 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-(methoxycarbonyl)-2,5-dimethyl-3-nitrobenzoic acid | quantitative yield | COC(=O)C1=C(C(=C(C(=O)O)C=C1C)C)[N+](=O)[O-] | C11H11NO6
